US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(cyclohexylmethyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and cyclohexylmethyl bromide. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.51-7.43 (m, 1 H), 7.21-7.12 (m, 2 H), 7.00-6.93 (m, 1 H), 6.37 (dd, J=3.4, 7.3 Hz, 1 H), 5.52 (br. s., 1 H), 4.39-4.27 (m, 3 H), 4.25-4.14 (m, 1 H), 2.98-2.77 (m, 5 H), 2.17-2.04 (m, 2 H), 1.96 (td, J=3.7, 7.2 Hz, 1 H), 1.78-1.56 (m, 5 H), 1.31-1.15 (m, 3 H), 0.95 (s, 9 H); LC/MS (m/z) ES+=491.47 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | cyclohexylmethyl bromide | C1(CCCCC1)CBr | C7H13Br
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(cyclohexylmethyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2CCCCC2)C=2C=C1CCCOC1=CC2 | C30H38N2O4
